US08110580B2
3-(3-Methyl-thiophene-2-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine
Charge an oven dried flask with 3-methyl-2-thienylzinc bromide (11.0 mL, 5.5 mmol), anhydrous THF (6.0 mL) and 7-(1-ethyl-propyl)-3-iodo-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine (0.536 g, 1.56 mmol). Degas for 10-15 min with positive argon pressure and add dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) dichloromethane (0.12 g, 0.15 mmol). Reflux overnight in an oil bath (100° C.) under an inert atmosphere. Cool the reaction to room temperature, quench with saturated ammonium chloride, and dilute with ethyl acetate (75 mL). Separate and extract the aqueous portion with ethyl acetate (50 mL). Combine the organic phases, dry over anhydrous magnesium sulfate, filter, and concentrate under reduced pressure. Purify the resulting residue using flash chromatography, eluting with 100% pentane/0% (25% ethyl acetate/pentane) to 0% pentane/100% (25% ethyl acetate/pentane) in a step gradient of 10% increments to give a white foam. Triturate with hexane and filter. (0.432 g, 8%). 1H NMR (400 MHz, CDCl3): 7.26 (d, J=4.8, MHz, 1H), 6.96 (d, J=5.3 Hz, 1H), 6.42 (s, 1H), 3.64-3.60 (m, 1H), 2.53 (s, 3H), 2.43 (s, 3H), 2.14 (s, 3H), 1.87-1.79 (m, 4H), 0.88 (t, J=7.0 Hz, 6H).

reactant | 3-methyl-2-thienylzinc bromide | 5.5 mmol, 11.0 mL | [Br-].CC1=C(SC=C1)[Zn+]
reactant | 7-(1-ethyl-propyl)-3-iodo-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | 1.56 mmol, 0.536 g | C(C)C(CC)C1=CC(=NC=2N1N=C(C2I)C)C | C13H18IN3
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.15 mmol, 0.12 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 6.0 mL | C1CCOC1 | C4H8O
product | 3-(3-Methyl-thiophene-2-yl)-7-(1-ethyl-propyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | CC1=C(SC=C1)C=1C(=NN2C1N=C(C=C2C(CC)CC)C)C | C18H23N3S
